US07732477B2
Methyl7-methoxy-1-benzothiophene-2-carboxylate
550 mg (3.97 mmol) of potassium carbonate and 350 mg (3.31 mmol) of methyl mercaptoacetate are added to a solution of 600 mg (3.31 mmol) of 3-methoxy-2-nitrobenzaldehyde in 8 ml of DMF. The reaction mixture is heated at 70° C. for 4 h. After cooling, water is added. The resulting precipitate is filtered off, washed with water and dried under reduced pressure. This gives 387 mg (45.7% of theory) of the title compound.

reactant | potassium carbonate | 3.97 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl mercaptoacetate | 3.31 mmol, 350 mg | SCC(=O)OC | C3H6O2S
reactant | 3-methoxy-2-nitrobenzaldehyde | 3.31 mmol, 600 mg | COC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Methyl7-methoxy-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC=C2OC | C11H10O3S
